US08008279B2
5-methoxyethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride
tert-Butyl 5-(2-methoxy)ethyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (430 mg) was dissolved in methanol (15 mL). 4N HCl in 1,4-dioxan (1.5 mL) was added and the mixture stirred at room temperature overnight. The solution was concentrated in vacuo, azeotroped once with toluene and dried under vacuum. This gave 5-(2-methoxy)ethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride as a grey foam (350 mg, 100% assuming HCl salt).

reactant | tert-Butyl 5-(2-methoxy)ethyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 430 mg | COCCN1C2=C(C=3C=CC=CC13)CN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | 1,4-dioxan | 1.5 mL | O1CCOCC1 | C4H8O2
product | 5-methoxyethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | Cl.COCCN1C2=C(C=3C=CC=CC13)CNCC2 | InChI=1S/C14H18N2O.ClH/c1-17-9-8-16-13-5-3-2-4-11(13)12-10-15-7-6-14(12)16;/h2-5,15H,6-10H2,1H3;1H
